US06069177
(2RS,3RS)-3-hydroxy-4,4-dimethyl-2-phenylpentanenitrile
Reaction of phenylacetonitrile and pivalaldehyde on a 30 mmol scale according to the procedure in Example 1, and recrystallization from toluene/hexane gave 5.34 g of the desired anti-aldol product (87%), m.p.: 70.7-71.2° C. NMR (1H, 13C), IR, and Mass spectra were consistent with the assigned structure. Analysis: Calculated for C13H17NO: C, 76.81; H, 8.42; N, 6.89. Found: C, 76.80; H, 8.43; N, 6.83.

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
product | (2RS,3RS)-3-hydroxy-4,4-dimethyl-2-phenylpentanenitrile | 87% | OC(C(C#N)C1=CC=CC=C1)C(C)(C)C | C13H17NO
